US04166813
2,2-Bis[4-{2-acetoxy-3-[N-(2-acetoxyethyl)-N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 178)
A mixture of 200 ml of acetic anhydride and 7.4 g of 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane, obtained as described in Example 17, was reacted in a manner similar to that described in Example 13, giving the desired compound in the form of a pale yellow, very viscous product. The compound had an Rf value of 0.61 on thin layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | 7.4 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCO)C1CC(NC(C1)(C)C)(C)C)O)CN(C1CC(NC(C1)(C)C)(C)C)CCO | C43H72N4O6
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-Bis[4-{2-acetoxy-3-[N-(2-acetoxyethyl)-N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | C(C)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCOC(C)=O)C1CC(N(C(C1)(C)C)C(C)=O)(C)C)OC(C)=O)CN(C1CC(N(C(C1)(C)C)C(C)=O)(C)C)CCOC(C)=O | C55H84N4O12
